US07199136B2
4-[(3-Nitrophenyl)amino]-3-penten-2-one
36.24 g (362 mmol) Acetylacetone, 10.00 g (72 mmol) 3-nitroaniline, and 1.25 g (7.2 mmol) 4-toluenesulfonic acid are dissolved in 100 ml toluene. The reaction mixture is refluxed overnight with a Dean-Stark trap to remove water. After cooling down to room temperature, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with eluent dichloromethane.

reactant | Acetylacetone | 362 mmol, 36.24 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | 3-nitroaniline | 72 mmol, 10.00 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | 4-toluenesulfonic acid | 7.2 mmol, 1.25 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(3-Nitrophenyl)amino]-3-penten-2-one | [N+](=O)([O-])C=1C=C(C=CC1)NC(=CC(C)=O)C | C11H12N2O3
